US06117841
2-[(4-tertButyl-benzyl-)-methyl-amino]-4-methyl-pentanoic acid [2-(4-benzyloxyphenyl)-1-(1-propyl-piperidin-3-ylcarbamoyl)-ethyl]-amide
To a solution of (S)-2-[(4-tert-butyl-benzyl)-methyl-amino]-4-methyl-pentanoic acid (0.3 g, 1.01 mmol) in 15 mL of DMF was added HBTU (0.38 g, 1.01 mmol) and diisopropylethylamine (0.65 g, 5.05 mmol). The mixture was stirred for 30 minutes at 0° C. A solution of 2-amino-3-(4-benzyloxyphenyl)-N-(1-propyl-piperidin-3-yl)propionamide (0.4 g, 1.01 mmol) in 15 mL of DMF was added to the reaction mixture. The reaction mixture was allowed to warm to room temperature and was stirred for another 30 minutes. The mixture was diluted with 20 mL of ethyl acetate, washed with 1N HCl (2×10 mL), saturated NaHCO3 (2×10 mL) and saturated solution of brine (2×10 mL). The organic layer was separated, dried with Na2SO4 and evaporated to dryness. The crude residue was purified by chromatography (silica gel, 7:3 hexane/ethyl acetate). The purified product was dissolved in minimum volume of diethylether and an ethereal solution of HCl was added dropwise. The solid which formed was washed several times with diethylether. The solid was dissolved in methanol and treated with activated charcoal, filtered, and evaporated. The residue was crystallized from methanol-ether to give the title compound (0.16 g, 23%) as a light yellow powder; mp 160-164° C. (dec).

reactant | (S)-2-[(4-tert-butyl-benzyl)-methyl-amino]-4-methyl-pentanoic acid | 1.01 mmol, 0.3 g | C(C)(C)(C)C1=CC=C(CN([C@H](C(=O)O)CC(C)C)C)C=C1 | C18H29NO2
reactant | HBTU | 1.01 mmol, 0.38 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 5.05 mmol, 0.65 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-amino-3-(4-benzyloxyphenyl)-N-(1-propyl-piperidin-3-yl)propionamide | 1.01 mmol, 0.4 g | NC(C(=O)NC1CN(CCC1)CCC)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C24H33N3O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-[(4-tertButyl-benzyl-)-methyl-amino]-4-methyl-pentanoic acid [2-(4-benzyloxyphenyl)-1-(1-propyl-piperidin-3-ylcarbamoyl)-ethyl]-amide | 0.16 g, 23% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(NC1CN(CCC1)CCC)=O)NC(C(CC(C)C)N(C)CC1=CC=C(C=C1)C(C)(C)C)=O | C42H60N4O3
